2121-08-21 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - given 10mg IV lasix
   - haldol was given for agitation
   - nebs were ordered as well
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Methocarbamol
   Unknown;
   Meperidine
   Unknown;
   Hydrocodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-8-20**] 10:35 PM
   Vancomycin - [**2121-8-21**] 01:35 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-8-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-21**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (68 - 83) bpm
   BP: 134/77(90) {99/39(55) - 172/99(112)} mmHg
   RR: 18 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    170 mL
                                                                    150 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                    100 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                    470 mL
   Urine:
                                                                    190 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -20 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General: AOx3. No acute distress. appropriate.
   HEENT: Sclera anicteric, oropharynx clear with very dry mucous
   membranes, PERRL
   Neck: supple, JVP about 12cm, no LAD
   Lungs: bibasilar crackles
 way up the lugn fields, no wheezes, +
   ronchi and transmitted upper airway noise throughout.
   CV: Regular rate and rhythm, normal S1 + S2, 2+ systolic murmur best
   heard at RUSB, no rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: Warm, well perfused, 2+ pulses, bilateral trace edema, no
   asymetry, no cyanosis
   Labs / Radiology
        [image002.jpg]
   Micro:
   Blood cultures x2 from ED pending
   .
   Images:
   Chest x-ray: bilateral basilar infiltrate versus edema, slightly
   enlarged cardiac silhouette, blunting of left heart border
   .
   EKG:
   Sinus, rate of 78, poor baseline, normal intervals andTITLE:
    axis, late R wave progression. No prior available for comparison.
   Assessment and Plan
   Mrs. [**Known lastname 10048**] is a 71 year old female with past medical history of
   congestive heart failure, GERD, back pain, and psychotic depression who
   presents with fevers, altered mental status, hypoxia, and hypotension.
   .
   #) Fevers, leukocytosis: Picture is most consistent with infectious
   etiology. Most likely is pneumonia given chest x-ray findings, hypoxia,
   and history of cough. Other potential source would be urinary tract
   given mildly positive urine analysis with WBC and trace positive
   leukesterase. No convincing story for GI source. Given question of
   change in mental status, must also consider CNS infection, though this
   appears less likely given hypoxia and cough, and improvement after
   fluid resuscitation in ED.
   - Continue broad coverage antibiotics: Vancomycin/Zosyn for hospital
   acquired pneoumonia (given she lives in health care facility), and
   levofloxacin to double cover gram negative pathogens as well as
   atypicals. Will consider narrowing coverage pending culture data.
   - Will send urinary legionella, sputum culture
   - Urine culture
   - Rapid respiratory panel, droplet precautions
   - Repeat CXR in AM
   .
   #) Altered mental status: Currently appears to be at baseline, per
   report from nursing facility. Suspect this was in the setting of fever,
   hypoxia.
   - Will continue to monitor respiratory status closely, should further
   mental status changes ensue, would consider head CT and/or lumbar
   puncture
   .
   #) Hypotension: Given above picture of fever and now relative
   hypothermia, leukocytosis, initial tachycardia, and tachypnea, patient
   fits criteria for SIRS/sepsis, given hypotension with possible end
   organ damage given elevated creatinine (baseline unknown). Currently BP
   improved after 3-4 liters of IVF. No known history of steroid use to
   suggest adrenal insufficiency, no evidence of ischemia on EKG.
   - Continue to monitor respiratory status closely, bolus for MAP >65 as
   permitted given history of CHF
   - Consider placement of CVL to obtain CVP, pressors if necessary
   - Antibiotics as discussed above
   .
   #) Hypoxia: Suspect secondary to infectious process as well as possible
   degree of CHF given CXR, however improvement in her symptoms after IVF
   would argue against this. Currently doing well on 4 L NC. Given
   bilateral infiltrates, must also be mindful of ARDS, though cannot
   entirely be sure this is not secondary to fluids.
   - BNP
   - Repeat CXR in AM
   .
   #) History of CHF: Unknown what her systolic and diastolic function
   are, currently feels better after IVF. As noted above, CXR could be
   consistent with CHF, though seems less likely in setting of
   leukocytosis and improvement in symptoms with hydration.
   - Added on BNP
   - Will attempt to get records from her PCP regarding status of her
   systolic and diastolic function
   - Will continue cautious IVF resuscitation given unknown cardiac
   function
   .
   #) Psycotic depression: Patient is followed by Dr. [**First Name5 (NamePattern1) 461**]
   [**Last Name (NamePattern1) 10049**] at [**Male First Name (un) 1833**] and Dr. [**Last Name (STitle) **] [**Last Name (NamePattern4) 1756**] [**Last Name (NamePattern1) 10050**].
   - Continuing home medications
   .
   #) Renal insufficiency: Unknown baseline creatinine. Hydrating as noted
   above.
   - Renal lytes to check FeNa
   - PCP contact for baseline value
   .
   #) Hypothyroidism: Continue home medications
   .
   #) Anxiety, pain: Continue home medications
   .
   #) Hypertension: Holding home labetolol for now.
   .
   #) Intrarenal aortic anerusym: Further details unknown, pulses are
   bilaterally symmetric.
   ICU Care
   Nutrition: replete electrolytes, regular diet today if respiratory
   status more stable
   Glycemic Control:  not on insulin
   Lines: Currently with two peripherals, will pursue additional access if
   needed.
   18 Gauge - [**2121-8-20**] 09:14 PM
   Prophylaxis:
   DVT: Subutaneous heparin, home PPI and bowel regimen
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient, Son [**Name (NI) 751**] [**Name (NI) 10048**] ([**Telephone/Fax (1) 10051**],
   ([**Telephone/Fax (1) 10052**]
   Code status: Full, per documentation from nursing home stating she
   wishes full resuscitation, also discussed with patient
   Disposition:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Methocarbamol
   Unknown;
   Meperidine
   Unknown;
   Hydrocodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-8-20**] 10:35 PM
   Vancomycin - [**2121-8-21**] 01:35 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-8-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-21**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (68 - 83) bpm
   BP: 134/77(90) {99/39(55) - 172/99(112)} mmHg
   RR: 18 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    170 mL
                                                                    150 mL
   PO:
                                                                     70 mL
             TF:
   IVF:
                                                                    100 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                    470 mL
   Urine:
                                                                    190 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -20 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-20**] 09:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-08-21 09:43:00 Physician Attending Progress Note
Chief Complaint: Sepsis, secondary to pneumonia presenting with-->
   Fever
   Altered Mental Status
   Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patent found to be confused and with significant fever and in that
   setting patient did have mild hypoxemia responsive to 2 lpm
   supplemental oxygen.
   ABG-7.32/53/98
   CXR concerning for pneumonia and patient to ICU with Sepsis secondary
   to Pneumonia
   24 Hour Events:
   Overnight-->
   -Lasix given at 10mg IV for worsening respiratory distress evidenced by
   increasing tachypnea
   -Diuresis of 500cc effected and patient with clinical improvement
   -O2 requirement maintained at 4 lpm
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Methocarbamol
   Unknown;
   Meperidine
   Unknown;
   Hydrocodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-8-21**] 01:35 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-8-21**] 06:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-8-21**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2121-8-21**] 07:56 AM
   Omeprazole (Prilosec) - [**2121-8-21**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Cough, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain location: myalgia
   Flowsheet Data as of  [**2121-8-21**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 84 (68 - 84) bpm
   BP: 161/69(93) {99/39(55) - 172/99(112)} mmHg
   RR: 21 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 72 kg
   Height: 61 Inch
             Total In:
                                                                    170 mL
                                                                    285 mL
   PO:
                                                                     70 mL
                                                                     35 mL
   TF:
   IVF:
                                                                    100 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    190 mL
                                                                  1,165 mL
   Urine:
                                                                    190 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -20 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   left), (Breath Sounds: Crackles : right > left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   284 K/uL
   93 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   17 mg/dL
   107 mEq/L
   140 mEq/L
   26.3 %
   15.3 K/uL
        [image002.jpg]
                             [**2121-8-21**]  05:42 AM
   WBC
   15.3
   Hct
   26.3
   Plt
   284
   Cr
   1.1
   Glucose
   93
   Other labs: PT / PTT / INR:14.0/29.3/1.2, Differential-Neuts:86.0 %,
   Lymph:9.6 %, Mono:2.9 %, Eos:1.4 %, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR-Right middle lobe opacity
   Microbiology: BC--Pending
   Resp Viral Culture-Pending
   No sputum obtained
   Assessment and Plan
   71 yo female with h/o CHF, back pain, GERD and psychotic depression
   presenting with sepsis likely secondary to pulmonary source.  This is
   based on myalgias, fevers and infiltrates.  In addition, for acute
   changes in respiratory status patient has had response to lasix which
   would suggest, in the history of CHF there may well be an additional
   component of hydrostatic pulmonary edema.
   1)Sepsis-She does have fever and elevation in WBC count so clearly
   meets criteria and with pulmonary infiltrates
dominantly in the right
   middle lobe, would suggest pulmonary source of sepsis
   -vanco/levo
   -Viral screen in place
   -Will obtain sputum culture if possible
   -No need for pressors at this time and actually has tolerated diuresis
   in this first 24 hour period
   -Will need to follow up urine culture as well as this is second most
   likely source at this time.
   2)Respiratory Distress/Hypoxia-Pneumonia and Congestive Heart
   Failure-_Systolic-Acute and Chronic
   -Alb/Atrovent
   -Will treat pneumonia as above and test for legionella and sputum
   sample as possible
   -Will wean O2 as possible
   -Will have patient up and out of bed
   -ECG without acute injury
will follow cardiac enzymes to evaluate for
   frank myocardia infarction
   -Will continue diuresis given tolerance and response
   3)Acute Renal Failure-Actually improved in the setting of diuresis and
   may represent mild ATN in the setting of sepsis presentation.
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-20**] 09:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2121-08-22 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - called out, waiting for bed
   - nebs were ordered as well
   - given 10mg IV lasix (diuresed -1.7L by 8pm)
   - restarted home med Labetalol
   - restarted oxycontin
   - advanced diet
   - changed Vanc to qdaily
   - refused blood draw for PM CEs
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Methocarbamol
   Unknown;
   Meperidine
   Unknown;
   Hydrocodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2121-8-21**] 03:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-8-22**] 02:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2121-8-21**] 07:56 AM
   Furosemide (Lasix) - [**2121-8-21**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2121-8-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-22**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 73 (67 - 89) bpm
   BP: 153/58(82) {128/53(74) - 178/83(99)} mmHg
   RR: 19 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 72 kg
   Height: 61 Inch
             Total In:
                                                                    865 mL
                                                                    180 mL
   PO:
                                                                    215 mL
                                                                     80 mL
   TF:
   IVF:
                                                                    650 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,985 mL
                                                                    320 mL
   Urine:
                                                                  2,985 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,120 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General: AOx3. No acute distress. appropriate.
   HEENT: Sclera anicteric, oropharynx clear with very dry mucous
   membranes, PERRL
   Neck: supple, JVP about 12cm, no LAD
   Lungs: bibasilar crackles
 way up the lugn fields, no wheezes, +
   ronchi and transmitted upper airway noise throughout.
   CV: Regular rate and rhythm, normal S1 + S2, 2+ systolic murmur best
   heard at RUSB, no rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: Warm, well perfused, 2+ pulses, bilateral trace edema, no
   asymetry, no cyanosis
   Labs / Radiology
   324 K/uL
   8.3 g/dL
   93 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   17 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-8-21**]  05:42 AM
                             [**2121-8-22**]  04:42 AM
   WBC
   15.3
   10.7
   Hct
   26.3
   26.5
   Plt
   284
   324
   Cr
   1.1
   TropT
   0.02
   Glucose
   93
   Other labs: PT / PTT / INR:14.0/29.3/1.2, CK / CKMB /
   Troponin-T:212/4/0.02, Differential-Neuts:86.0 %, Lymph:9.6 %, Mono:2.9
   %, Eos:1.4 %, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   71 year old female with past medical history of congestive heart
   failure, GERD, and psychotic depression who presented with sepsis
   likely secondary to pulmonary source.  Her respiratory status may also
   be explained by an exacerbation of her underlying CHF.
   .
   #) sepsis: Most likely pneumonia given her chest x-ray infiltrates of
   RML, hypoxia, and history of cough, fever, myalgias. Other potential
   source would be urinary tract given mildly positive urine analysis with
   WBC and trace positive leukesterase. No convincing story for GI source.
   Given question of change in mental status, must also consider CNS
   infection, though this appears less likely given hypoxia and cough, and
   improvement after fluid resuscitation in ED.
   - continue with abx: day 3 (day 1: [**8-20**]) of Vancomycin/Zosyn for
   hospital acquired pneoumonia and levofloxacin to double cover gram
   negative pathogens as well as atypicals. Will consider narrowing
   coverage pending culture data.
   - f/u urine cx, sputum culture, Rapid respiratory panel
   - no need for pressors, actually  tolerating diuresis
   - IVP boluses as necessary to maintain MAP > 65.
   - droplet precautions
   - f/u Urine culture, as this could also be a source for sepsis
   - patient refused evening CE, but EKG was without ST changes and first
   set CE negative
   .
   #) Hypoxia: Picture is most consistent with pneumonia. Suspect also an
   element of acute on chronic CHF.  Currently doing well on 4 L NC.
   - Treat underlying pneumonia with broad coverage antibiotics:
   Vancomycin/Zosyn for hospital acquired pneoumonia (given she lives in
   health care facility), and levofloxacin to double cover gram negative
   pathogens as well as atypicals.
   - lasix 10mg IV x1 yesterday, goal I/O 500-1000cc negative today ->
   actual diuresis:
   - continue diuresis as tolerated
   - f/u urinary legionella, sputum culture, rapid respiratory panel
   - wean O2 as tolerated.
   .
   #) Altered mental status: Currently appears to be at baseline, per
   report from nursing facility. Suspect this was in the setting of fever,
   hypoxia, and hypotension.
   - Will continue to monitor respiratory status closely, should further
   mental status changes ensue, would consider head CT and/or lumbar
   puncture
   - continue to treat hypoxia and sepsis as above
   .
   #) History of CHF: Unknown what her systolic and diastolic function
   are.  Given elevated BNP, JVD/crackles on exam, improvement with
   diuresis, likely a contributor to patient
s symptoms.
   - Will attempt to get records from her PCP regarding status of her
   systolic and diastolic function
   - Will continue diuresis.  Cautiou IVF resuscitation given unknown
   cardiac function
   .
   #) Renal insufficiency: Cr came down from 1.4 to 1.1 s/p dydration and
   diuresis with lasix  as noted above.  [**Month (only) 51**] represent mild ATN in the
   setting of sepsis.
   - continue to monitor renal function and urine output
   .
   #) Psycotic depression: Patient is followed by Dr. [**First Name5 (NamePattern1) 461**]
   [**Last Name (NamePattern1) 10049**] at [**Male First Name (un) 1833**] and Dr. [**Last Name (STitle) **] [**Last Name (NamePattern4) 1756**] [**Last Name (NamePattern1) 10050**].
   - Continuing Cymbalta 60 mg daily
   .
   #) Hypothyroidism: Continue Levothyroxine 25 mcg daily
   .
   #) Anxiety, pain:
   - Continue Lyrica 50 mg daily 9 AM for two weeks, plan to increase to
   50 mg [**Hospital1 7**] on [**2121-8-27**]
   - continue home oxycontin
   .
   #) Intrarenal aortic anerusym: Further details unknown, pulses are
   bilaterally symmetric. Can be f/u
d as outpt.
   ICU Care
   Nutrition: replete electrolytes, regular diet today if respiratory
   status more stable
   Glycemic Control:  not on insulin
   Lines: Currently with two peripherals, will pursue additional access if
   needed.
   18 Gauge - [**2121-8-20**] 09:14 PM
   Prophylaxis:
   DVT: Subutaneous heparin
   Stress ulcer: on home PPI
   VAP:
   Comments:
   Communication:  Comments: Patient, Son [**Name (NI) 751**] [**Name (NI) 10048**] ([**Telephone/Fax (1) 10051**],
   ([**Telephone/Fax (1) 10052**]
   Code status: Full, per documentation from nursing home stating she
   wishes full resuscitation, also discussed with patient
   Disposition:  if respiratory status stable or improving, can transfer
   to floor today

2121-08-22 12:44:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   HPI:
   24 Hour Events:
   Allergies:
   Morphine
   Unknown;
   Aspirin
   Unknown;
   Methocarbamol
   Unknown;
   Meperidine
   Unknown;
   Hydrocodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-8-22**] 08:53 AM
   Vancomycin - [**2121-8-22**] 08:53 AM
   Levofloxacin - [**2121-8-22**] 10:40 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-8-22**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2121-8-22**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.2
   HR: 69 (64 - 87) bpm
   BP: 148/51(77) {128/47(74) - 178/85(98)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 72 kg
   Height: 61 Inch
             Total In:
                                                                    865 mL
                                                                    740 mL
   PO:
                                                                    215 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    650 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,985 mL
                                                                    670 mL
   Urine:
                                                                  2,985 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,120 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   324 K/uL
   89 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   107 mEq/L
   143 mEq/L
   26.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2121-8-21**]  05:42 AM
                             [**2121-8-22**]  04:42 AM
   WBC
   15.3
   10.7
   Hct
   26.3
   26.5
   Plt
   284
   324
   Cr
   1.1
   1.0
   TropT
   0.02
   0.02
   Glucose
   93
   89
   Other labs: PT / PTT / INR:13.5/27.4/1.2, CK / CKMB /
   Troponin-T:53/3/0.02, Differential-Neuts:86.0 %, Lymph:9.6 %, Mono:2.9
   %, Eos:1.4 %, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR-Persistent bibasilar infiltrates with likely combination
   of atelectasis and edmea with concern for collapse at left lower lobe
   region.
   Assessment and Plan
   71 yo female with admission with sepsis who has had reasonable
   improvement in blood pressure and actuallly has been able to tolerate
   diuresis with good effect and has been out of bed to chair and weaned
   to nasal cannula at 2 lpm.
   1)Sepsis-Likely pulmonary source with severity of respiratory
   compromise contributed to by a component of pulmonary edema
   -Vanco/Levoflox/Zosyn
   -Will refine with cultures back
   -Viral pannel negative at this time
   -IVF as needed
   2)Congestive Heart Failure-
   -Continue with I/O even at this time and increase negative balance for
   any worsening congestion
for today 1 liter negative as goal
   -Will pursue ECHO in follow up given clinical course and history
   3)Altered Mental Status
   -Improved with above Rx
   -Improved with return of medications
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition: po intake
   Glycemic Control:
   Lines:
   20 Gauge - [**2121-8-21**] 01:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes